US04766125
A mixture of 12.8 parts of N1 -(2,6-dimethylphenyl)-4-(phenylmethyl)-1,2-piperazinediacetamide and 120 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The oily residue was crystallized from acetonitrile, yielding 7.7 parts (97.5%) of N1 -(2,6-dimethylphenyl)-1,2-piperazinediacetamide; mp. 171.9° C. (intermediate 72).

reactant | N1 -(2,6-dimethylphenyl)-4-(phenylmethyl)-1,2-piperazinediacetamide | CC1=C(C(=CC=C1)C)NC(CN1C(CN(CC1)CC1=CC=CC=C1)CC(=O)N)=O | C23H30N4O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N1 -(2,6-dimethylphenyl)-1,2-piperazinediacetamide | 97.5% | CC1=C(C(=CC=C1)C)NC(CN1C(CNCC1)CC(=O)N)=O | C16H24N4O2
